### PR TITLE
[Merged by Bors] - refactor(MeasureTheory):  define `eLpNorm f` to be infinite when not `AEStronglyMeasurable`

### PR DESCRIPTION
**Pull request by felixpernegger**
This PR redefines `eLpNorm f p μ` to be infinite when `f` is not `AEStronglyMeasurable`.

This has been discussed fairly thoroughly on Zulip here https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value

This simplifies some things, but complicates others. In particular, in some cases we need to require a topology now (though not very often) and in many lemmas we need a measurability requirement now.

Some things can now be simplified; I changed the definition of `MemLp` from `AEStronglyMeasurable f + eLpNorm f p μ < ∞` to `eLpNorm f p \mu < ∞` since the measurability is now implied.
I tried to minimise the measurability conditions throughout the library.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
WIP

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 1]
```diff
@@ -44,7 +44,8 @@ lemma lpNorm_of_not_memLp (hf' : ¬ MemLp f p μ) : lpNorm f p μ = 0 := by simp
 lemma lpNorm_eq_integral_norm_rpow_toReal (hp₀ : p ≠ 0) (hp : p ≠ ∞)
     (hf : AEStronglyMeasurable f μ) :
     lpNorm f p μ = (∫ x, ‖f x‖ ^ p.toReal ∂μ) ^ p.toReal⁻¹ := by
-  rw [← toReal_eLpNorm hf, eLpNorm_eq_lintegral_rpow_enorm_toReal hp₀ hp, ← ENNReal.toReal_rpow,
+  rw [← toReal_eLpNorm hf, eLpNorm_eq_lintegral_rpow_enorm_toReal hp₀ hp hf,
+    ← ENNReal.toReal_rpow,
     ← integral_toReal]
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]:
```suggestion
    ← ENNReal.toReal_rpow, ← integral_toReal]
```

**Comment by felixpernegger** [comment]
-WIP

File: Mathlib/Analysis/Distribution/Sobolev.lean [hunk 2]
```diff
@@ -242,24 +242,27 @@ theorem MemSobolev.fourier_memL1 {s : ℝ} (hs : Module.finrank ℝ E < 2 * s) {
...
-      suffices h : ∫⁻ a : E, ENNReal.ofReal ‖(1 + ‖a‖ ^ 2) ^ (-s)‖ < ⊤ from by
-        norm_cast
-        simp_rw [ofReal_norm] at h
-        simp_rw [← enorm_pow]
-        convert h
-        rw [← Real.rpow_mul_natCast (by positivity)]
+    unfold MemLp
+    rw [eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top (by norm_num) (by norm_num) hmeas]
+    suffices h : ∫⁻ a : E, ENNReal.ofReal ‖(1 + ‖a‖ ^ 2) ^ (-s)‖
+        ∂(volume : Measure E) < ⊤ from by
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/Sobolev.lean:253]:
```suggestion
        ∂(volume : Measure E) < ⊤ by
```

File: Mathlib/Analysis/Distribution/Sobolev.lean [hunk 3]
```diff
@@ -242,24 +242,27 @@ theorem MemSobolev.fourier_memL1 {s : ℝ} (hs : Module.finrank ℝ E < 2 * s) {
...
+      norm_cast
+      simp_rw [ofReal_norm] at h
+      simp_rw [← enorm_pow]
+      convert h
+      · exact BorelSpace.measurable_eq.trans BorelSpace.measurable_eq.symm
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/Sobolev.lean:258]:
```suggestion
      · rfl
```

File: Mathlib/Analysis/Distribution/TemperateGrowth.lean [hunk 4]
```diff
@@ -508,13 +508,20 @@ lemma _root_.integral_pow_mul_le_of_le_of_pow_mul_le
 /-- For any `HasTemperateGrowth` measure and `p`, there exists an integer power `k` such that
 `(1 + ‖x‖) ^ (-k)` is in `L^p`. -/
 theorem HasTemperateGrowth.exists_eLpNorm_lt_top (p : ℝ≥0∞)
-    {μ : Measure E} (hμ : μ.HasTemperateGrowth) :
+    {μ : Measure E} (hμ : μ.HasTemperateGrowth)
+    (hmeas : ∀ k : ℕ, AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ (-k : ℝ)) μ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/TemperateGrowth.lean:512]: Instead of assuming `hmeas`, it would be better to assume that `E` is Borel, or `OpenMeasurableSpace`.

File: Mathlib/Analysis/Distribution/Sobolev.lean [hunk 5]
```diff
@@ -242,24 +242,27 @@ theorem MemSobolev.fourier_memL1 {s : ℝ} (hs : Module.finrank ℝ E < 2 * s) {
...
-        fun_prop
-      exact this.1.continuous.aestronglyMeasurable
-    · rw [eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top (by norm_num) (by norm_num)]
-      suffices h : ∫⁻ a : E, ENNReal.ofReal ‖(1 + ‖a‖ ^ 2) ^ (-s)‖ < ⊤ from by
-        norm_cast
-        simp_rw [ofReal_norm] at h
-        simp_rw [← enorm_pow]
-        convert h
-        rw [← Real.rpow_mul_natCast (by positivity)]
+    unfold MemLp
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/Sobolev.lean:250]: `unfold` is a bit of a code smell: better have an iff lemma restating the definition. Same thing several times below.

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 6]
```diff
@@ -63,7 +63,14 @@ def Integrable {α} {_ : MeasurableSpace α} (f : α → ε)
 scoped notation "Integrable[" mα "]" => @Integrable _ _ _ _ mα
 
 theorem memLp_one_iff_integrable {f : α → ε} : MemLp f 1 μ ↔ Integrable f μ := by
-  simp_rw [Integrable, hasFiniteIntegral_iff_enorm, MemLp, eLpNorm_one_eq_lintegral_enorm]
+  constructor
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean:66]: Can you replace the `constructor` and `intro`s below by a suitable `refine`?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 7]
```diff
@@ -32,31 +32,35 @@ section Top
...
   · exact ENNReal.toReal_pos hp_ne_zero hp_ne_top
-  · simpa [eLpNorm_eq_eLpNorm' hp_ne_zero hp_ne_top] using hfp
+  · simpa [eLpNorm_eq_eLpNorm' hp_ne_zero hp_ne_top (aestronglyMeasurable_of_eLpNorm_ne_top hfp.ne)]
+      using hfp
 
-theorem eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top {f : α → ε} (hp_ne_zero : p ≠ 0)
-    (hp_ne_top : p ≠ ∞) : eLpNorm f p μ < ∞ ↔ ∫⁻ a, (‖f a‖ₑ) ^ p.toReal ∂μ < ∞ :=
+theorem eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top [TopologicalSpace ε]
+    {f : α → ε} (hp_ne_zero : p ≠ 0) (hp_ne_top : p ≠ ∞) (hf : AEStronglyMeasurable f μ) :
+    eLpNorm f p μ < ∞ ↔ ∫⁻ a, (‖f a‖ₑ) ^ p.toReal ∂μ < ∞ :=
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:58]:
```suggestion
    eLpNorm f p μ < ∞ ↔ ∫⁻ a, ‖f a‖ₑ ^ p.toReal ∂μ < ∞ :=
```

**Review by sgouezel — COMMENTED** [review]
Thanks a lot for doing this! (I mean, I can only imagine how painful this had to be). I haven't looked at everything yet, but here are already a few comments.

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 8]
```diff
@@ -1270,25 +1270,37 @@ variable (𝕜 F) in
...
   _ ≤ eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ * eLpNorm (fun x ↦ (1 + ‖x‖) ^ k • f x) ⊤ μ := by
-    refine eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top p _ ?_
-    refine Continuous.aestronglyMeasurable ?_
-    exact .rpow_const (by fun_prop) fun x ↦ .inl (h_one_add x).ne'
+    have hpow : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ (-k : ℝ)) μ :=
+      ((continuous_const.add continuous_norm).rpow_const
+        fun x ↦ .inl (h_one_add x).ne').aestronglyMeasurable
+    have hf' : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ k • f x) μ :=
+      ((continuous_const.add continuous_norm).pow k).aestronglyMeasurable.smul
+        f.continuous.aestronglyMeasurable
```
Comment (lua-vr) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]:
```suggestion
    have hpow : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ (-k : ℝ)) μ :=
      (Continuous.rpow_const (by fun_prop) (by grind)).aestronglyMeasurable
    have hf' : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ k • f x) μ := by
      fun_prop
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 9]
```diff
@@ -1270,25 +1270,37 @@ variable (𝕜 F) in
...
+    exact eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top p _ hpow hf'
   _ ≤ eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ *
       (2 ^ k * ENNReal.ofReal (((Finset.Iic (k, 0)).sup (schwartzSeminormFamily 𝕜 E F)) f)) := by
     gcongr
+    have hf' : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ k • f x) μ :=
+      ((continuous_const.add continuous_norm).pow k).aestronglyMeasurable.smul
+        f.continuous.aestronglyMeasurable
+    rw [eLpNorm_exponent_top hf']
```
Comment (lua-vr) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]:
```suggestion
    have hf' : AEStronglyMeasurable (fun x : E ↦ (1 + ‖x‖) ^ k • f x) μ := by
      fun_prop
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 10]
```diff
@@ -1270,25 +1270,37 @@ variable (𝕜 F) in
...
+    [hμ : μ.HasTemperateGrowth] [SecondCountableTopologyEither E F] :
     ∃ (k : ℕ) (C : ℝ≥0), ∀ (f : 𝓢(E, F)), eLpNorm f p μ ≤
       C * ENNReal.ofReal ((Finset.Iic (k, 0)).sup (schwartzSeminormFamily 𝕜 E F) f) := by
   -- Apply Hölder's inequality `‖f‖_p ≤ ‖f₁‖_p * ‖f₂‖_∞` to obtain the `L^p` norm of `f = f₁ • f₂`
   -- using `f₁ = (1 + ‖x‖) ^ (-k)` and `f₂ = (1 + ‖x‖) ^ k • f x`.
-  rcases hμ.exists_eLpNorm_lt_top p with ⟨k, hk⟩
+  rcases hμ.exists_eLpNorm_lt_top p (fun k ↦
+    ((continuous_const.add continuous_norm).rpow_const fun x ↦
+      Or.inl
+      (ne_of_gt (lt_add_of_pos_of_le zero_lt_one (norm_nonneg x)))).aestronglyMeasurable) with
```
Comment (lua-vr) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]:
```suggestion
    (Continuous.rpow_const (by fun_prop) (by grind [norm_nonneg])).aestronglyMeasurable) with
```

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean (hunk 8 above)
Comment (lua-vr) [reply Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]: I only looked at the top of the file, but usually we can split the hard part (in this case `.rpow_const` that is not `@[fun_prop]`) and prove the side goals via `grind` and the more usual bits with `fun_prop`.

**Comment by sgouezel** [comment]
It still doesn't build, and the comments haven't all been taken into account as far as I can tell. Would you like others to help on this one?

**Comment by sgouezel** [comment]
I'll have a go at fixing the PR today. I think we should try to get this in as quickly as possible, because it's gonna rot otherwise.

**Comment by RemyDegenne** [comment]
Thanks a lot!
bors r+
